US08133995B2
Step 1: Preparation of (4-aminopyrrolo[2,1-f][1,2,4]triazin-6-yl)methanol
To a solution of THF (150 mL) was added ethyl 4-aminopyrrolo[2,1-f][1,2,4]triazine-6-carboxylate (2.29 g, 4.65 mmol) followed by 1 M DIBAL in THF (28.8 mL, 28.8 mmol). The solution was stirred at rt for 1 h. The r×n mixture was treated with EtOAc followed by aq Rochelle's salt. This heterogeneous mixture was then heated at 60° C. for 30 min. The solution was transferred to a separatory funnel, separated and washed with water. The aq layer was back extracted with EtOAc. The organic layer was dried (MgSO4), filtered, and concentrated to yield 550 mg (93%) of the desired product. MS [M+H]+=165; LCMS RT=1.03.

reactant | THF | 150 mL | C1CCOC1 | C4H8O
reactant | ethyl 4-aminopyrrolo[2,1-f][1,2,4]triazine-6-carboxylate | 4.65 mmol, 2.29 g | NC1=NC=NN2C1=CC(=C2)C(=O)OCC | C9H10N4O2
reactant | DIBAL | 1 M | CC(C)C[AlH]CC(C)C
reactant | THF | 28.8 mmol, 28.8 mL | C1CCOC1 | C4H8O
reactant | Rochelle's salt | [C@@H]([C@H](C(=O)[O-])O)(C(=O)[O-])O.[Na+].[K+]
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | (4-aminopyrrolo[2,1-f][1,2,4]triazin-6-yl)methanol | 550 mg, 93% | NC1=NC=NN2C1=CC(=C2)CO | C7H8N4O
